US05633279
To a solution of (E)-4-(1,3-dihydro-6-methoxy-4-methoxyethoxymethoxy-7-methyl-3-oxoisobenzofuran-5-yl)-2-methylbut-2-enaldehyde (4.6 g) in methanol (60 ml) was added sodium borohydride (0.528 g). After one hour the reaction was added to water (250 ml) and extracted with ethyl acetate (2×150 ml). The extract was dried and evaporated to give (E)-4-(1,3-dihydro-6-methoxy-4-methoxyethoxymethoxy-7-methyl-3-oxoisobenzofuran-5-yl) -2-methylbut-2-en-1-ol.

reactant | (E)-4-(1,3-dihydro-6-methoxy-4-methoxyethoxymethoxy-7-methyl-3-oxoisobenzofuran-5-yl)-2-methylbut-2-enaldehyde | 4.6 g | COC1=C(C(=C2C(OCC2=C1C)=O)OCOCCOC)C/C=C(/C=O)\C | C19H24O7
reactant | sodium borohydride | 0.528 g | [BH4-].[Na+]
reactant | water | 250 ml | O | H2O
solvent | methanol | 60 ml | CO | CH4O
product | (E)-4-(1,3-dihydro-6-methoxy-4-methoxyethoxymethoxy-7-methyl-3-oxoisobenzofuran-5-yl) -2-methylbut-2-en-1-ol | COC1=C(C(=C2C(OCC2=C1C)=O)OCOCCOC)C/C=C(/CO)\C | C19H26O7
